US04367238
A solution of 2-[2-methoxy-3-(o-tolyloxy)phenyl]-propionic acid (2.9 g) in acetic anhydride (10 ml), hydroiodic acid (55-58%, 20 ml) and acetic anhydride (20 ml) were treated in a similar manner to that of Example 10-(7) to give 3-methyl-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one (1.4 g). mp 45°-46° C.

reactant | 2-[2-methoxy-3-(o-tolyloxy)phenyl]-propionic acid | 2.9 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C(=O)O)C | C17H18O4
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydroiodic acid | 20 ml | I | HI
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-methyl-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | 1.4 g | CC1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)C)=O | C16H14O3
